US06603012B2
Preparation of (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanol
0.32 g of (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic acid were dissolved in 5 ml THF and treated dropwise, at 0° C., with 5.23 ml of 1M BH3.THF in THF. The mixture was stirred at 0° C. for two hours and then was quenched at 0° C. with careful addition of one portion of 5 ml of 3N HCl. The mixture was stirred at room temperature for 30 min. then was extracted with three portion of 25 ml of ethyl acetate. The combined organic extracts were dried over MgSO4 and concentrated in vacuo, giving a yellow oil. The product was purified by flash chromatography (SiO2, 10% ethyl acetate/hexanes), yielding 0.31 g of a colorless oil. 1H NMR (CDCl3): 7.10 (d, J=1.9 Hz, 1H), 6.97 (d, J=8.1 Hz, 1H), 6.81 (dd, J=8.1, 1.9 Hz, 1H), 3.65 (dd, J=10.7, 5.9 Hz, 1H), 3.57 (dd, J=10.7, 8.4 Hz, 1H), 3.00-2.90 (m, 2H), 2.65-2.55 (m, 1H), 1.95-1.85 (m, 2H), 1.65-1.35 (m, 2H), 1.26 (s, 6H), 1.25-1.05 (m, 6H), 0.87 (t, J=7.6 Hz, 3H).

reactant | (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic acid | 0.32 g | CC1(CCSC2=CC=C(C=C12)C(C(=O)O)CCCCC)C | C18H26O2S
reactant | BH3.THF | 1M, 5.23 ml | B.C1CCOC1
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanol | 0.31 g | CC1(CCSC2=CC=C(C=C12)C(CO)CCCCC)C | C18H28OS
